US09108939B2
C: 2-(4-((4-(6-Amino-1H-benzo[d]imidazol-1-yl)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol
1-(Piperidin-4-yl)-1H-benzo[d]imidazol-6-amine (4.62 mmol, 1 g), 2-(4-(bromomethyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (4.62 mmol, 1.558 g) and potassium carbonate (9.25 mmol, 1.278 g) were combined and stirred in acetonitrile (25 mL) at room temperature for 3 days. The reaction mixture was concentrated at reduced pressure, taken up in dichloromethane, washed with water and concentrated under vacuum. The resulting residue was purified by silica chromatography (eluting with a solvent gradient from dichloromethane to 6% methanol/dichloromethane) to afford the title compound (784 mg). MS (ESI) m/z 473.2 [M+H]+

reactant | 1-(Piperidin-4-yl)-1H-benzo[d]imidazol-6-amine | 4.62 mmol, 1 g | N1CCC(CC1)N1C=NC2=C1C=C(C=C2)N | C12H16N4
reactant | 2-(4-(bromomethyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 4.62 mmol, 1.558 g | BrCC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C10H7BrF6O
reactant | potassium carbonate | 9.25 mmol, 1.278 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | 2-(4-((4-(6-Amino-1H-benzo[d]imidazol-1-yl)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 784 mg | NC=1C=CC2=C(N(C=N2)C2CCN(CC2)CC2=CC=C(C=C2)C(C(F)(F)F)(C(F)(F)F)O)C1 | C22H22F6N4O
